US04772600
N,N-Dipropyl-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(4-trifluoromethylphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (3.21 g, 0.010 mole), and 1,1'-carbonyldiimidazole (1.62 g, 0.010 mole), in anhydrous tetrahydrofuran (75 ml) was stirred at room temperature with a stream of nitrogen bubbling through for 3 hours. The nitrogen flow was stopped and a solution of dipropylamine (1.31 g, 0.013 mole) in dry tetrahydrofuran (25 ml) was added. The solution was stirred at room temperature under nitrogen for 1 hour. The reaction mixture was concentrated in vacuo and the residue triturated in potassium bicarbonate solution (50 ml) and filtered. The filter cake was washed with water and recrystallized twice from isopropyl ether-petroleum ether, giving 1.26 g (31%) of a white solid, mp 138°-139° C.

reactant | 2-(4-trifluoromethylphenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.010 mole, 3.21 g | FC(C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1CC(=O)O)(F)F | C15H10F3N3O2
reactant | 1,1'-carbonyldiimidazole | 0.010 mole, 1.62 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dipropylamine | 0.013 mole, 1.31 g | C(CC)NCCC | C6H15N
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | N,N-Dipropyl-2-[4-(trifluoromethyl)phenyl]-3H-imidazo[4,5-b]pyridine-3-acetamide | 1.26 g, 31% | C(CC)N(C(CN1C(=NC=2C1=NC=CC2)C2=CC=C(C=C2)C(F)(F)F)=O)CCC | C21H23F3N4O
